### ISSUE TITLE
`grind` problem with universes

### ISSUE THREAD

**Issue by kim-em** [leanprover/lean4#11086]
`grind` is failing in the example below, but extracting the goal out into a separate statement works fine. The difference is in the universes: at the failure site, we have universe metavariables. I'm not certain whether the problem is the appearance of these metavariables in the first place, or `grind`'s unwillingness to work with them.

````
open Sum Function

-- This needs to be in the library!
-- https://github.com/leanprover/lean4/pull/11085
attribute [grind =] Prod.map_fst Prod.map_snd

-- Copy the definition of `Equiv` from Mathlib.
structure Equiv (α : Sort _) (β : Sort _) where
  protected toFun : α → β
  protected invFun : β → α
  protected left_inv : LeftInverse invFun toFun := by intro; first | rfl | ext <;> rfl
  protected right_inv : RightInverse invFun toFun := by intro; first | rfl | ext <;> rfl

infixl:25 " ≃ " => Equiv

def sumProdDistrib (α β γ) : (α ⊕ β) × γ ≃ α × γ ⊕ β × γ :=
  ⟨fun p => p.1.map (fun x => (x, p.2)) fun x => (x, p.2),
    fun s => s.elim (Prod.map inl id) (Prod.map inr id), by
      rintro ⟨_ | _, _⟩ <;> rfl, by
      rintro (⟨_, _⟩ | ⟨_, _⟩)
      · fail_if_success grind -- Why does this fail??
        dsimp only [elim_inl, Prod.map_apply, id_eq, map_inl];
      · fail_if_success grind
        dsimp only [elim_inr, Prod.map_apply, id_eq, map_inr]⟩

/-!
However the two examples below work fine!

The visible difference in the goal state is in the universes:
When we fail above, we have:
```
α : Type ?u.2161
β : Type ?u.2160
γ : Type ?u.2158
```
but below we have
```
α : Type u_1
β : Type u_2
γ : Type u_3
```
-/

example (α β γ) (fst : α) (snd : γ) :
    (fun p : (α ⊕ β) × γ ↦ Sum.map (fun x ↦ (x, p.snd)) (fun x ↦ (x, p.snd)) p.fst)
      ((fun s ↦ Sum.elim (Prod.map inl id) (Prod.map inr id) s) (inl (fst, snd))) =
    inl (fst, snd) := by
  grind

example (α β γ) :
    RightInverse (fun s : α × γ ⊕ β × γ ↦ Sum.elim (Prod.map inl id) (Prod.map inr id) s) fun p ↦
      Sum.map (fun x ↦ (x, p.snd)) (fun x ↦ (x, p.snd)) p.fst := by
  rintro (⟨_, _⟩ | ⟨_, _⟩) <;> grind
````
